### PR TITLE
[Merged by Bors] - feat(Combinatorics): set-valued pigeonhole principle

### PR DESCRIPTION
**Pull request by cjrl**
This PR contributes two theorems to combinatorics:

-  `exists_lt_card_cover_of_card_biUnion_lt_card` is a set-valued version of the pigeonhole principle.

- `sum_card_eq_sum_card_cover_biUnion` is a set theoretic corollary of a double counting result proved for bipartite graphs (`Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow`). This was needed to prove the above pigeonhole principle. 

The motivation for these results is our Latin Square PR #36698. These results were proved in less general terms in that PR, but are independent of Latin Square considerations and so we have generalized and moved them into more relevant files.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 1]
```diff
@@ -203,6 +203,26 @@ theorem card_le_card_of_forall_subsingleton' (ht : ∀ b ∈ t, ∃ a, a ∈ s 
...
+/-- Given a finite collection of finite subsets $B_1, \ldots, B_k$
+and, for every $x \in \bigcup_i B_i$, let $C_x$ be the set of indices
+of the $B_i$'s that contain $x$.  Then, $\sum_i |B_i| = \sum_x |C_x|$. -/
+lemma sum_card_eq_sum_card_cover_biUnion
+    [Fintype α] [DecidableEq α]
+    [DecidableEq β]
+    (B : α → Finset β)
+    (s : Finset α) :
+    ∑ j ∈ s, (Finset.card (B j)) =
+    ∑ x ∈ (s.biUnion B), Finset.card {j | j ∈ s ∧ x ∈ B j} := by
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: You should put several arguments in the same line. The same for the other lemma.
```suggestion
lemma sum_card_eq_sum_card_cover_biUnion [Fintype α] [DecidableEq α] [DecidableEq β]
    (B : α → Finset β) (s : Finset α) :
    ∑ j ∈ s, (Finset.card (B j)) = ∑ x ∈ (s.biUnion B), Finset.card {j | j ∈ s ∧ x ∈ B j} := by
```

Comment (cjrl) [reply Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: Thanks @IvanRenison, have made this change for both lemmas.

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 2]
```diff
@@ -203,6 +203,22 @@ theorem card_le_card_of_forall_subsingleton' (ht : ∀ b ∈ t, ∃ a, a ∈ s 
...
+    ∑ j ∈ s, (Finset.card (B j)) = ∑ x ∈ (s.biUnion B), Finset.card {j | j ∈ s ∧ x ∈ B j} := by
+  let r : α → β → Prop := fun j x => x ∈ B j
+  have g := Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow r (s := s)
+    (t := s.biUnion B)
+  unfold Finset.bipartiteAbove Finset.bipartiteBelow r at g
+  have hB : ∀ j ∈ s, {b ∈ s.biUnion B | b ∈ B j} = B j := by grind
+  have hB' : ∀ b, ({a ∈ s | b ∈ B a} : Finset α) = ({j | j ∈ s ∧ b ∈ B j} : Finset α) := by
+    grind
+  rw [Finset.sum_congr rfl (fun j hj => by rw [hB j hj])] at g
+  simp [hB', g]
```
Comment (j-loreaux) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
    ∑ j ∈ s, #(B j) = ∑ x ∈ s.biUnion B, #{j | j ∈ s ∧ x ∈ B j} := by
  convert sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow (fun j x => x ∈ B j)
  · grind [bipartiteAbove]
  · grind [bipartiteBelow]
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 3]
```diff
@@ -203,6 +203,22 @@ theorem card_le_card_of_forall_subsingleton' (ht : ∀ b ∈ t, ∃ a, a ∈ s 
     (hs : ∀ a ∈ s, ({ b ∈ t | r a b } : Set β).Subsingleton) : #t ≤ #s :=
   card_le_card_of_forall_subsingleton (swap r) ht hs
 
+/-- Given a finite collection of finite subsets $B_1, \ldots, B_k$
+and, for every $x \in \bigcup_i B_i$, let $C_x$ be the set of indices
+of the $B_i$'s that contain $x$.  Then, $\sum_i |B_i| = \sum_x |C_x|$. -/
+lemma sum_card_eq_sum_card_cover_biUnion [Fintype α] [DecidableEq α] [DecidableEq β]
```
Comment (j-loreaux) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β]
```

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 4]
```diff
@@ -288,6 +291,46 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
...
+    Nat.mul_lt_mul_right (Nat.ne_zero_iff_zero_lt.mp nek.out) |>.mpr (by lia)
+  simp only [← Finset.sum_card_eq_sum_card_cover_biUnion f s, sum_const, smul_eq_mul] at hc'
+  have h₄ : ∀ j ∈ s, k ≤ Finset.card (f j) := by
+    unfold k
+    apply Finset.inf'_le
+  have : (s.card)*k ≤ ∑ j ∈ s, Finset.card (f j) := by
+    have infh := Finset.sum_le_sum h₄
+    simp only [sum_const, smul_eq_mul] at infh
+    exact infh
+  lia
```
Comment (j-loreaux) [inline Mathlib/Combinatorics/Pigeonhole.lean]:
```suggestion
    (h₁ : s.Nonempty) (h₂ : ∀ j ∈ s, 0 < #(f j))
    (h₃ : #(s.biUnion f) < #s) : ∃ x ∈ s.biUnion f,
    s.inf' h₁ (fun j ↦ #(f j)) < #{j | j ∈ s ∧ x ∈ f j} := by
  set k := s.inf' h₁ (fun j ↦ #(f j)) with hk
  have nek : NeZero k := ⟨by rwa [hk, Nat.ne_zero_iff_zero_lt, Finset.lt_inf'_iff h₁]⟩
  contrapose! h₃
  suffices #s • k ≤ #(s.biUnion f) • k by simp_all
  simp only [← Finset.sum_const]
  calc ∑ j ∈ s, k
    _ ≤ ∑ j ∈ s, #(f j) := by gcongr with i hi; exact inf'_le _ hi
    _ = ∑ x ∈ s.biUnion f, #{j | j ∈ s ∧ x ∈ f j} := by rw [sum_card_eq_sum_card_cover_biUnion]
    _ ≤ ∑ x ∈ s.biUnion f, k := by gcongr; grind
```

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 5]
```diff
@@ -288,6 +291,46 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
...
+If the cardinality of the union `s.biUnion f` is less than `s.card`, then
+there exists an element `x ∈ s.biUnion f` which is covered by more than `k` of the sets
+`f j` (i.e., `k < #{j ∈ s | x ∈ f j}`).
+
+This is a double-counting variant of the pigeonhole principle.
+Unlike the classical pigeonhole principle (see
+`Finset.exists_lt_card_fiber_of_nsmul_lt_card_of_maps_to`),
+this formulation handles a *set-valued* assignment where elements may belong to
+multiple sets simultaneously. -/
+lemma exists_lt_card_cover_of_card_biUnion_lt_card
```
Comment (j-loreaux) [inline Mathlib/Combinatorics/Pigeonhole.lean]:
```suggestion
lemma exists_mem_biUnion_inf'_card_lt
```

Comment (ghseeli) [reply Mathlib/Combinatorics/Pigeonhole.lean]: What about `exists_mem_biUnion_inf'_card_lt_card_indices` or something like that? I am open to other ideas, though. It just seems inconsistent with the other theorems in this file to end the name with `lt` without saying what it is compared to, but I am still trying to get the hang of the mathlib theorem naming conventions.

Comment (cjrl) [reply Mathlib/Combinatorics/Pigeonhole.lean]: Thanks! Have accepted @j-loreaux suggestion, but do like @ghseeli suggestion too.

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 6]
```diff
@@ -288,6 +291,34 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
...
+This is a double-counting variant of the pigeonhole principle.
+Unlike the classical pigeonhole principle (see
+`Finset.exists_lt_card_fiber_of_nsmul_lt_card_of_maps_to`),
+this formulation handles a *set-valued* assignment where elements may belong to
+multiple sets simultaneously. -/
+lemma exists_mem_biUnion_inf'_card_lt
+    [DecidableEq α] [Fintype α] {f : α → Finset β}
+    (h₁ : s.Nonempty) (h₂ : ∀ j ∈ s, 0 < #(f j))
+    (h₃ : #(s.biUnion f) < #s) : ∃ x ∈ s.biUnion f,
+    s.inf' h₁ (fun j ↦ #(f j)) < #{j | j ∈ s ∧ x ∈ f j} := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/Pigeonhole.lean]: mathlib style generally prefers to maximally use whitespace (e.g. start including typeclasses/hypothesis on the first line and make use of as long a line as possible), but also keep the conclusion of the theorem on a single line if possible for readability.
```suggestion
lemma exists_mem_biUnion_inf'_card_lt [DecidableEq α] [Fintype α] {f : α → Finset β}
    (h₁ : s.Nonempty) (h₂ : ∀ j ∈ s, 0 < #(f j)) (h₃ : #(s.biUnion f) < #s) :
    ∃ x ∈ s.biUnion f, s.inf' h₁ (fun j ↦ #(f j)) < #{j | j ∈ s ∧ x ∈ f j} := by
```

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 7]
```diff
@@ -288,6 +291,34 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
...
+  set k := s.inf' h₁ (fun j ↦ #(f j)) with hk
+  have nek : NeZero k := ⟨by rwa [hk, Nat.ne_zero_iff_zero_lt, Finset.lt_inf'_iff h₁]⟩
```
Comment (vlad902) [inline Mathlib/Combinatorics/Pigeonhole.lean]: Proof goes through without this line, I assume its vestigial.
```suggestion
```

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 8]
```diff
@@ -288,6 +291,34 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
     ∃ y ∈ t, #{x ∈ s | f x = y} ≤ n :=
   exists_card_fiber_le_of_card_le_nsmul ht hn
 
+/-- A version of the pigeonhole principle for set-valued functions.
+
+Given a family of sets `f : α → Finset β` and a choice of indices `s : Finset α`.
+Let `k` denote the minimum cardinality of the `f j`'s.
```
Comment (vlad902) [inline Mathlib/Combinatorics/Pigeonhole.lean]:
```suggestion
Let `k` denote the minimum cardinality of the `f j`s.
```

**Review by vlad902 — COMMENTED** [review]
LGTM otherwise

File: Mathlib/Combinatorics/Pigeonhole.lean (hunk 6 above)
Comment (cjrl) [reply Mathlib/Combinatorics/Pigeonhole.lean]: @vlad902 Thanks for explaining!

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 9]
```diff
@@ -10,6 +10,7 @@ public import Mathlib.Algebra.Order.Ring.Nat
 public import Mathlib.Data.Nat.ModEq
 public import Mathlib.Order.Preorder.Finite
 public import Mathlib.Algebra.Order.BigOperators.Group.Finset
+public import Mathlib.Combinatorics.Enumerative.DoubleCounting
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Pigeonhole.lean]: This import needn't be public
```suggestion

import Mathlib.Combinatorics.Enumerative.DoubleCounting
```

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 10]
```diff
@@ -288,6 +291,31 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
...
+`f j` (i.e., `k < #{j ∈ s | x ∈ f j}`).
+
+This is a double-counting variant of the pigeonhole principle.
+Unlike the classical pigeonhole principle (see
+`Finset.exists_lt_card_fiber_of_nsmul_lt_card_of_maps_to`),
+this formulation handles a *set-valued* assignment where elements may belong to
+multiple sets simultaneously. -/
+lemma exists_mem_biUnion_inf'_card_lt [DecidableEq α] [Fintype α] {f : α → Finset β}
+    (h₁ : s.Nonempty) (h₂ : ∀ j ∈ s, 0 < #(f j)) (h₃ : #(s.biUnion f) < #s) :
+    ∃ x ∈ s.biUnion f, s.inf' h₁ (fun j ↦ #(f j)) < #{j | j ∈ s ∧ x ∈ f j} := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Pigeonhole.lean]: By virtue of `Finset.mem_biUnion` being simp, this lemma isn't in simp nf. Can you fix?

Comment (ghseeli) [reply Mathlib/Combinatorics/Pigeonhole.lean]: Thank you for this! I think I have changed this how you were requesting. Is this something we should be doing to every lemma/theorem, even if it is not tagged as a `@[simp]` lemma?

**Comment by ghseeli** [comment]
-awaiting-author

File: Mathlib/Combinatorics/Pigeonhole.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Pigeonhole.lean]: Yes. One of the points of simp normal form is to guide users towards the one "canonical" spelling instead of writing the same lemma many times for each of the possible spellings

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 11]
```diff
@@ -10,6 +10,7 @@ public import Mathlib.Algebra.Order.Ring.Nat
 public import Mathlib.Data.Nat.ModEq
 public import Mathlib.Order.Preorder.Finite
 public import Mathlib.Algebra.Order.BigOperators.Group.Finset
+import Mathlib.Combinatorics.Enumerative.DoubleCounting
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Pigeonhole.lean:14]:
```suggestion

import Mathlib.Combinatorics.Enumerative.DoubleCounting
```
following https://leanprover-community.github.io/contribute/style

File: Mathlib/Combinatorics/Pigeonhole.lean [hunk 12]
```diff
@@ -288,6 +291,35 @@ theorem exists_card_fiber_le_of_card_le_mul (ht : t.Nonempty) (hn : #s ≤ #t *
...
+`f j` (i.e., `k < #{j ∈ s | x ∈ f j}`).
+
+This is a double-counting variant of the pigeonhole principle.
+Unlike the classical pigeonhole principle (see
+`Finset.exists_lt_card_fiber_of_nsmul_lt_card_of_maps_to`),
+this formulation handles a *set-valued* assignment where elements may belong to
+multiple sets simultaneously. -/
+lemma exists_mem_biUnion_inf'_card_lt [DecidableEq α] [Fintype α] {f : α → Finset β}
+    (h₁ : s.Nonempty) (h₂ : ∀ j ∈ s, 0 < #(f j)) (h₃ : #(s.biUnion f) < #s) :
+    ∃ x, (∃ a ∈ s, x ∈ f a) ∧ (s.inf' h₁ fun j ↦ #(f j)) < #{j | j ∈ s ∧ x ∈ f j} := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Pigeonhole.lean]:
```suggestion
    ∃ a ∈ s, ∃ x ∈ f a, (s.inf' h₁ fun j ↦ #(f j)) < #{j | j ∈ s ∧ x ∈ f j} := by
```
feels more natural, no?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/Pigeonhole.lean (hunk 10 above)
Comment (ghseeli) [reply Mathlib/Combinatorics/Pigeonhole.lean]: Okay, got it! It certainly makes sense!

File: Mathlib/Combinatorics/Pigeonhole.lean (hunk 12 above)
Comment (ghseeli) [reply Mathlib/Combinatorics/Pigeonhole.lean]: Yes! I took the suggestion and it made the proof shorter, which is a plus. I also changed the name to (I think) match the Mathlib naming conventions now that the lemma statement has changed.

**Comment by ghseeli** [comment]
-awaiting-author

**Review by j-loreaux — COMMENTED** [review]
thanks!

bors merge
